2189-11-21 07:13:00 Physician Resident Progress Note
Chief Complaint: Weakness
   24 Hour Events:
   - Increased levophed to 0.35 and MAPs above 70
   - Spoke to PCP last night
   confirms h/o angiodysplasia of stomach and duodenum with serial
   cauterization in [**2186**], h/o gi bleed.
   re: thyroid, looks like in [**Month (only) **] had tsh elevated at 6.42, repeat [**7-5**]
   6.22 f54 normal. [**7-5**] begun on synthroid 25ug daily. [**8-5**] tsh 4.07 ft4
   1.1
   there was question about why on finasteride when i saw in office - this
   was started after UTI assoc with urinary obsturction, with BPH given as
   doiagnosis. in [**2187**].  and some prostatitis
   paracentesis [**2188-11-28**]: negative for malignant cells, reactive mesothelial
   cells, macrophages and chronic inflammation.
   has a history of many bssal cells and a melanoma removed in past as
   well.   pathology [**2189-2-17**] shows malignant melanoma, extending to tissue
   edges, r arm excision
   - appears to have also had allergic reaction to aranesp earlier this
   month and was on prednisone but only for 7 days.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-11-21**] 05:32 AM
   Infusions:
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   See above
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies CP, SOB, Abd pain, N/v
   Flowsheet Data as of  [**2189-11-21**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (60 - 76) bpm
   BP: 85/60(66) {84/48(62) - 132/98(104)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
    CVP: 15 (10 - 16)mmHg
   Total In:
                                                                  4,046 mL
                                                                    410 mL
   PO:
   TF:
   IVF:
                                                                     46 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,005 mL
   Urine:
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,046 mL
                                                                   -595 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4 L
   SpO2: 99%
   ABG: 7.40/27/511/15/-5
   Physical Examination
   General: Awake, alert, NAD, Oriented x3
   HEENT: NCAT, PERRL, EOMI, pale conjunctivae, no scleral icterus, MMM,
   no lesions noted in OP
   Neck: supple, JVP at clavicle
   Pulmonary: decreased breath sounds at right base, otherwise CTA
   Cardiac: distant HS, RR, nl S1 S2, no murmurs, rubs or gallops
   appreciated
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted, no shifting dullness
   Extremities: 1+ RLE edema, no LLE edema
   Skin: mild erythema at left foot
   Neurologic: Alert, oriented x 3. Able to relate history without
   difficulty. Cranial nerves II-XII intact. [**3-1**] quadriceps and gastroc
   bilaterally. Grip [**3-31**]. Sensation intact to gross tough throughout.
   Labs / Radiology
   84 K/uL
   8.9 g/dL
   78 mg/dL
   3.0 mg/dL
   15 mEq/L
   4.6 mEq/L
   80 mg/dL
   116 mEq/L
   145 mEq/L
   28.0 %
   4.0 K/uL
         [image002.jpg]
                            [**2189-11-20**]  09:58 PM
                            [**2189-11-20**]  11:33 PM
                            [**2189-11-21**]  02:42 AM
   WBC
   3.1
   4.0
   Hct
   27.4
   28.0
   Plt
   76
   84
   Cr
   3.0
   3.0
   TropT
   0.28
   0.30
   TCO2
   17
   Glucose
   105
   98
   78
   Other labs: PT / PTT / INR:14.5/46.4/1.3, CK / CKMB /
   Troponin-T:72//0.30, ALT / AST:68/74, Alk Phos / T Bili:241/1.0,
   Differential-Neuts:75.9 %, Lymph:13.1 %, Mono:9.2 %, Eos:1.7 %,
   Fibrinogen:293 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:282
   IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   TSH 15
   FeUrea 34.8
   Cortisol 10.4 (random)
   Fibrinogen 293
   FDP 10-40
   Trop 0.3 < 0.28 < 0.32
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 SIRS
 CIRRHOSIS OF LIVER, OTHER
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTHERMIA
   ASSESSMENT: 75 yo M hx CAD s/p NSTEMI, a. fib not on Coumadin with 1
   day hx generalized fatigue, weakness, poor PO, decreased UOP and found
   to be hypotensive, hypoxemic, with acute on chronic renal failure and
   pancytopenia.
   .
   PLAN:
   .
   ## SIRS: Meets SIRS criteria by leukopenia, hypothermia, and increased
   RR but without obvious source of infection. Patient has acute on
   chronic renal failure, but LFTs at baseline, lactate normal and
   troponin at baseline. Altered mental status may represent end organ
   ischemia, but now improved with hydration. Received 3 L IVF and now BP
   improved on levophed. Broad spectrum antibiotics initiated without
   clear source. CXR with effusions, but no obvious consolidation. UA
   clean. No diarrhea. CNS symptoms resolved. Other possible infectious
   etiologies inclued empyema and SBP. Although Hct at baseline of low
   30s, platelets and wbc are low so DIC must be considered. Lastly,
   adrenal supression could potentially be responsible for hypothermia,
   and hypotension.
   - Continue broad spectrum antibiotics with vanco/zosyn for now as
   patient does have MRSA history
   - Send blood, urine, sputum culture
   - Repeat CXR after hydration to see if pneumonia blossoms
   - Continue levophed with goal MAP above 65
   - follow up random cortisol
   - Diagnostic paracentesis to r/o SBP
   - Diagnostic/Therapeutic thoracentesis to r/o empyema
   .
   ## Hypoxia: CXR c/w fluid overload including bilateral effusions. No
   clear pneumonia. BNP elevated at 2929 but is actually lower than it was
   last month, and it should be noted patient has Chronic renal failure.
   TTE with preserved systolic function this month. Unlikely CHF given
   normal TTE, and exam without elevated JVP. ABG with supratherapeutic
   oxygen levels. CO2 low so clearly patient is not retaining. Troponin
   elevated, but at baseline and EKG is reassuring. High risk for PE given
   possible malignancy and RLE swelling, but not tachycardic and
   oxygenation improving. CTA not possible in the seting renal failure.
   - Repeat ABG in AM
   - Reduce supplemental oxygen and consider CPAP if necessary to help
   with pulmonary edema
   - Repeat Cardiac enzymes and EKG in AM
   - SQH for ppx
   - therapeutic and diagnostic thoracentesis in AM
   - LENIs given R > L edema and inability to get CTA chest
   .
   ## AMS: Unclear source but may be related to infection. No head CT
   performed in the ED. No meningeal signs on exam, and MS improved since
   arrived inthe ER. Patient also on betablocker with was recently
   increased and could be contributing. [**Month (only) 11**] also be related to liver
   disease or possible renal dysfunction.
   - defer CT head for now given improved MS
   - Consider adding lactulose
   - Manage BP as noted above
   - tox screen
   - Correct renal dysfunction as noted below
   - Recheck TFTs, B12
   .
   ## Mixed acid base distrubance: Ph Normal but bicarbonate quite low.
   NAGMA likely due to acute on chronic renal failure. In addition, PaC02
   lower than predicted for metabolic acidosis, so there may be a second
   disturbance of primary repiratory alkalosis due to tachypnea from
   hypoxia.
   - Check urine lytes
   - Repeat lactate
   - UA for ketones
   - Improve oxygenation as noted above
   .
   ## Acute on Chronic Renal failure: Baselien Cr 2.7 and mildly elevated
   at 3, possible from poor po intake and lethargy.
   - Urine lytes
   - Repeat Cr post IVF resucitation
   .
   ## CAD: NSTEMI this month with medical management. No signs of ischemia
   on EKG. TTE with preserved systolic function.
   - Continue asa, statin
   - Betablocker if blood pressure improves in AM
   .
   ## Panctytopenia: Presumed secondary to infection. Not neutropenic.
   Patient does has high suspicion for malignancy, so possible marrow
   involvement.
   - Antibiotics as noted above
   - stat Hct now
   - stool guaiac
   - Repeat CBC in am with differential
   .
   ## Afib: S/p pacer and rate controlled. Anticoagulation contraindicated
   due to GI bleed.
   - Tele
   - Hold betablocker for now given hypotension
   .
   ## ESLD: Cryptogenic vs alcoholic cirrhosis. LFts at baseline. On
   nadolol, but not lactulose or rifaximin. Question whether he would be a
   candidate for these in the future.
   - Trend LFTs
   - Paracentesis to r/o SBP
   - Consider RUQ u/s if uptrending LFTs
   - Consider hepatology c/s in AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-11-20**] 10:45 PM
   20 Gauge - [**2189-11-20**] 10:45 PM
   18 Gauge - [**2189-11-20**] 10:45 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu for now

2189-11-21 08:20:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 75 yo male with NSTEMI [**11-4**] medically managed, afib, prior GI
   bleed, right pleural effusion, cirrhosis, CKD, hx of melanoma, admitted
   with generalized fatigue/weakness/poor POs, found to be hypotensive and
   hypoxemic
   24 Hour Events:
   Admitted from the ED, s/p 3.5 L NS, levo requirement up to 0.35
   Central line placed in the ED
   Weaned off NRB to 4L NC
   History obtained from Patient
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-11-21**] 05:32 AM
   Infusions:
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Vancomycin 1000 Q 24 hours
   Heparin
   Protonix 40 daily
   Levothyroxine
   Ferrous sulfate
   Atorvastatin
   ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-21**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (60 - 76) bpm
   BP: 85/60(66) {84/48(62) - 132/98(104)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   CVP: 15 (10 - 16)mmHg
   Total In:
                                                                  4,046 mL
                                                                    492 mL
   PO:
   TF:
   IVF:
                                                                     46 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,005 mL
   Urine:
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,046 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 99%
   ABG: 7.40/27/511/15/-5
   Physical Examination
   Gen: awake, able to follow some commans
   Neck: supple, L IJ in place
   Chest: decreased breath sounds 2/3 up R side posteriorly
   CV: irregularly irregular
   Abd: soft, NT/ND + BS, ?fluid wave
   Extr: warm, no edema
   Neuro: A+O to name,
[**2182**]
, President [**Last Name (un) 1397**]; hypertonia in all
   extremities and intension > resting tremor, worst in RUE, unable to
   raise RUE above 20 degrees
   Labs / Radiology
   8.9 g/dL
   84 K/uL
   78 mg/dL
   3.0 mg/dL
   15 mEq/L
   4.6 mEq/L
   80 mg/dL
   116 mEq/L
   145 mEq/L
   28.0 %
   4.0 K/uL
        [image002.jpg]
                            [**2189-11-20**]  09:58 PM
                            [**2189-11-20**]  11:33 PM
                            [**2189-11-21**]  02:42 AM
   WBC
   3.1
   4.0
   Hct
   27.4
   28.0
   Plt
   76
   84
   Cr
   3.0
   3.0
   TropT
   0.28
   0.30
   TCO2
   17
   Glucose
   105
   98
   78
   Other labs: PT / PTT / INR:14.5/46.4/1.3, CK / CKMB /
   Troponin-T:72//0.30, ALT / AST:68/74, Alk Phos / T Bili:241/1.0,
   Differential-Neuts:75.9 %, Lymph:13.1 %, Mono:9.2 %, Eos:1.7 %,
   Fibrinogen:293 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:282
   IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   AM cortisol: pending
   Blood culture: pending x 1
   CXR: (my read): Large layering R pleural effusion, L IJ line in SVC
   Assessment and Plan
   75 yo male with CAD, CRI, cirrhosis, presenting with malaise and found
   to be hypotensive requiring fluids and pressor support
   1. Hypotension: initial concern for sepsis/SIRS, ? mild component of
   hypovolemia initially.  Normal LVEF on recent Echo, CVP now in the
   teens, and levo requirement increased o/n.  UA neg, no clear infiltrate
   on CXR, but may be obscured by large effusion.  ?adrenal insufficiency
   given recent prednisone use.
   - add vasopressin
   - check AM cortisol; if equivocal, will consider starting dex and
   performing [**Last Name (un) **] stim
   - repeat TFTs
   - continue vanco/zosyn empirically
   - 2^nd set blood cultures today
   - sputum culture, influenza swab
   - RUQ US for ?localizing pocket to tap to r/out SBP
   - consider repeat TTE if rest of eval above unrevealing
   2. Neuro: altered mental status initially, then, per family, back to
   baseline yesterday, more confused this AM and has hypertonia and
   tremor, unclear if true asterixis.  Bedside US with no localizable
   pocket of ascites to tap.
   - check ammonia level, consider lactulose if more increased confusion
   - non-con head CT
   - RUQ US for ?localizing a pocket of ascites to tap
   3. Hypoxia: most likely due to pulmonary edema/overload given CXR. With
   size of effusions, may not be able to see a clear
   infiltrate, however current abx should cover PNA.  Now off NRB and on
   NC.
   - continue vanco/zosyn for now, f/up cultures at 48 hours
   - LENI
s due to asymmetrical legs
   4. Cirrhosis: holding diuretics while pt hypotensive
   - ammonia level
   - ?lactulose if MS worse
   5. CAD: recent NSTEMI with demand in a setting of AF/RVR, rates
   reasonable now.  No signs of active ischemia by ECG, trops lower than
   recent levels.
   - off beta blocker due to hypotension
   - cont ASA and statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-11-20**] 10:45 PM
   20 Gauge - [**2189-11-20**] 10:45 PM
   18 Gauge - [**2189-11-20**] 10:45 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  PPI
   Communication: with patient
   Code status: Full code
   Disposition: ICU
   Total time spent:  55 min CCT

2189-11-22 09:04:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Decreased levo down to 0.08 overnight. Started on vasopressin, and
   hydrocortisone. Worsening delirium overnight. Started on lactulose.
   Head CT unremarkable. NH3 75. Formal Ultrasound performed and area
   marked for paracentesis. Concern about swallowing, made NPO and
   consulted speech and swallow. Arterial line placed yesterday.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-11-22**] 05:55 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   seroquel, 1L D5LR at 150, heparin s/c, colace, pantoprazole, synthroid
   25mc, iron, lipitor 40, asa 325, zosyn 2.25 q6, vasopressin, lactulose,
   hydrocort 100 q8,vancomycin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-22**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.3
C (95.6
   HR: 73 (62 - 79) bpm
   BP: 112/63(81) {94/54(69) - 136/70(95)} mmHg
   RR: 18 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   CVP: 12 (8 - 335)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  2,604 mL
                                                                    405 mL
   PO:
   TF:
   IVF:
                                                                  2,604 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    245 mL
   Urine:
                                                                    995 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,109 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.38/27/168/13/-7
   Physical Examination
   General Appearance: myoclonus
   Head, Ears, Nose, Throat: Normocephalic, adentulous
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool, slightly cool extremities
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   61 K/uL
   206 mg/dL
   3.3 mg/dL
   13 mEq/L
   5.0 mEq/L
   81 mg/dL
   114 mEq/L
   141 mEq/L
   25.8 %
   1.8 K/uL
        [image002.jpg]
                            [**2189-11-20**]  09:58 PM
                            [**2189-11-20**]  11:33 PM
                            [**2189-11-21**]  02:42 AM
                            [**2189-11-22**]  03:27 AM
                            [**2189-11-22**]  03:38 AM
   WBC
   3.1
   4.0
   1.8
   Hct
   27.4
   28.0
   25.8
   Plt
   76
   84
   61
   Cr
   3.0
   3.0
   3.3
   TropT
   0.28
   0.30
   TCO2
   17
   17
   Glucose
   105
   98
   78
   206
   Other labs: PT / PTT / INR:15.0/45.8/1.3, CK / CKMB /
   Troponin-T:72//0.30, ALT / AST:61/61, Alk Phos / T Bili:217/0.9,
   Differential-Neuts:75.9 %, Lymph:13.1 %, Mono:9.2 %, Eos:1.7 %,
   Fibrinogen:293 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:259
   IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Imaging: CT head no acute changes
   LENIs negative
   Abdominal ultrasound moderate ascites.
   Microbiology: C.diff negative
   Blood and urine no growth to date
   Assessment and Plan
 INEFFECTIVE COPING:
   family meeting scheduled today at 3pm.
 ALTERED MENTAL STATUS (NOT DELIRIUM): neuro consult.
 HYPOXEMIA: on RA currently
 CIRRHOSIS OF LIVER, OTHER: ammonia elevated, will drop NG tube for
   lactulose due to concern for hepatic encephalopathy and swall
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): will send urine eos, repeat urine lytes, renal ultrasound.
   non oliguric, no electrolyte disturbance. Will consider renal consult
   in am.
 HYPOTHERMIA: on bear-hugger. will follow.
Hypotension: of unclear etiology. Will consult neurology for ?
   encephalitis given his profound myoclonus, and confusion, word finding
   difficulty. Will perform paracentesis today, and likely LP as well.
   Continue levophed, hydrocort, vasopressin. continue zosyn and vanco,
   check trough. f/u cultures. will hold off on throcentesis for now.
Leukopenia: f/u diff and neutophil count. ? sepsis related, vs
   medication related. f/u repeat labs today, + smear.
Anemia: guiac positive, will monitor hct q8h, send hemolysis labs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-11-20**] 10:45 PM
   Arterial Line - [**2189-11-21**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 8379**]
   note as outlined above, including assessment and plan. 75 yo male with
   cirrhosis, CAD, chronic kidney disease with waxing and [**Doctor Last Name 282**] mental
   status and persistent shock requiring pressor support, presumed sepsis.
   Continues to require vasopressin and levophed to maintain adequate MAP.
   On broad spectrum abx. Myoclonus episodes may be mostly physiologic per
   neurology, but reasonable to proceed forward with LP given AMS and lack
   of clear infectious source. Paracentesis under radiologic guidance.
   Pt is critically ill.
   Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2189-11-22**] 14:18 ------

2189-11-22 09:06:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2189-11-23 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2189-11-22**] 12:39 PM
 LUMBAR PUNCTURE - At [**2189-11-22**] 04:12 PM
   -- consulted neuro, suspect toxic-metabolic, LP, and potential EEG.
   Added on amp for listeria coverage.
   -- had a family meeting: full code, but no prolonged measures
   -- pocked visualized on u/s, but could not get with needle
   -- LP performed
   -- patients grandaugther braged about pt's girlfirends.  Sent RPR and
   HIV + VL
   -- NG tube difficult to place, large blood clot.  Has history of
   [**Last Name (LF) 10094**], [**First Name3 (LF) **] declined to place further.  MS improved and able to take
   meds/lactulose
   -- off pressors since 1 a.m.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-11-22**] 05:55 AM
   Vancomycin - [**2189-11-22**] 03:04 PM
   Ampicillin - [**2189-11-23**] 04:03 AM
   Piperacillin - [**2189-11-23**] 06:19 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-23**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.5
C (95.9
   HR: 61 (61 - 76) bpm
   BP: 115/56(78) {70/43(55) - 133/70(92)} mmHg
   RR: 15 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 73 Inch
    CVP: 12 (4 - 21)mmHg
   Total In:
                                                                  2,656 mL
                                                                    322 mL
   PO:
   TF:
   IVF:
                                                                  2,656 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    205 mL
   Urine:
                                                                    725 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,931 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   62 K/uL
   8.1 g/dL
   123 mg/dL
   3.4 mg/dL
   15 mEq/L
   4.0 mEq/L
   84 mg/dL
   116 mEq/L
   144 mEq/L
   25.4 %
   5.5 K/uL
        [image002.jpg]
                            [**2189-11-20**]  09:58 PM
                            [**2189-11-20**]  11:33 PM
                            [**2189-11-21**]  02:42 AM
                            [**2189-11-22**]  03:27 AM
                            [**2189-11-22**]  03:38 AM
                            [**2189-11-22**]  02:46 PM
                            [**2189-11-23**]  04:09 AM
   WBC
   3.1
   4.0
   1.8
   4.0
   5.5
   Hct
   27.4
   28.0
   25.8
   24.9
   25.4
   Plt
   76
   84
   61
   68
   62
   Cr
   3.0
   3.0
   3.3
   3.4
   3.4
   TropT
   0.28
   0.30
   TCO2
   17
   17
   Glucose
   105
   98
   78
   [**Telephone/Fax (3) 10095**]
   Other labs: PT / PTT / INR:15.5/43.9/1.4, CK / CKMB /
   Troponin-T:72//0.30, ALT / AST:54/48, Alk Phos / T Bili:170/0.9,
   Differential-Neuts:90.2 %, Lymph:5.5 %, Mono:3.9 %, Eos:0.3 %,
   Fibrinogen:293 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:271
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   CXF prot 101, glu 130, wbc 2, crypto negative
   Assessment and Plan
   75 yo M with h/o CAD, Afib, Cirrhosis, pleural effusions p/w fatigue,
   weakness and found to have hypoxemia, hypotension, pancytopenia and
   acute on chronic renal failure.
   # SIRS/Hypotension: Meets SIRS by leukopenia, hypotension and increasd
   RR. WBC now improved. CXR without consolidation but limited in the
   setting of effusions. UA clean. However, no left shift on CBC. LP
   benign except for elevated protein which is nonspecific. C diff
   negative. Crypto negative. HIV and RPR pending. Noninfectious
   etiologies could include hypoadrenalism and hypothroidism, but T4 and
   cortisol normal. Pressors off since this morning.
   - F/U cultures
 blood, urine, sputum
   - Stress Dose steroids for now, with plan to reduce 50% if BP continues
   to remain normal without pressors
   - para to r/o SBP today
   - [**Female First Name (un) 231**] in the next few days for diagnosis/therapeutic
   - S and S eval in case of silent aspiration
   - Continue Broad spectrum antibiotcs for now with vanco/zosyn for
   sepsis without known etiology with plan for 7 day course if no clear
   source found
   - D/c Ampicillin given normal CSF which was initially started for
   listeria coverage
   # AMS: Improved this morning. CT head negative and exam nonfocal. Neuro
   thinks likely toxic/metabolic. EEG requested. At risk for
   toxic/metabolic given renal failure and cirrhosis.
   - f/u EEG
   -  lactulose in case of ciffhosi
   - f/u RPR, HIV
   -  appreiciate neurology input
   .
   # Pancytopenia: Likely from infection given acute nature. Now improved.
   DIC labs negative.
   - CBC with diff daily
   # Acute on Chronic renal failure: Cr remains above 3 from baseline 2.7.
   Feurea 33.4, so looks mixed.  Likely a component of ATN given profound
   hypotension on admission.
   - Renally dose mediations
   - Trend lytes [**Hospital1 **]
   - Consider Renal C/S tomorrow if not improving
   .
   # Cirrhosis: LFTs baseline. Not on lactulose on rifaximin at baseline.
   - para to r/o SBP
   - lactulose as above
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2189-11-20**] 10:45 PM
   Arterial Line - [**2189-11-21**] 07:00 PM
   Prophylaxis:
   DVT: Boots, sqh
   Stress ulcer: ppi
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, Maybe called out later today

2189-11-23 10:15:00 Physician Attending Progress Note
Chief Complaint: 75 yo man with cryptogenic cirrhosis, CAD with NSTEMI
   [**10-5**] thought due to demand.  Admitted [**2189-11-20**] with hypotension with
   infectious workup negative to date.  Off pressors since 3AM today.
   HPI:
   24 Hour Events:
 PARACENTESIS  attempted unsuccessfully.  Plan for IR guided
   paracentesis today.
 LUMBAR PUNCTURE - At [**2189-11-22**] 04:12 PM for myoclonic jerks.  LP
   notable for glucose 130 TP 101 1 RBC 2 WBC
Family meeting with PCP, [**Name10 (NameIs) **] plan to continue full code status
Attempted NGT placement complicated by hematemesis, so attempt aborted
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-11-22**] 05:55 AM
   Vancomycin - [**2189-11-22**] 03:04 PM
   Ampicillin - [**2189-11-23**] 04:03 AM
   Piperacillin - [**2189-11-23**] 06:19 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-23**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.5
C (95.9
   HR: 63 (61 - 76) bpm
   BP: 109/53(74) {70/43(55) - 133/70(92)} mmHg
   RR: 17 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 73 Inch
   CVP: 11 (4 - 21)mmHg
   Total In:
                                                                  2,656 mL
                                                                    347 mL
   PO:
   TF:
   IVF:
                                                                  2,656 mL
                                                                    347 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    205 mL
   Urine:
                                                                    725 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,931 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, No acute distress, alerted and
   oriented
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   62 K/uL
   123 mg/dL
   3.4 mg/dL
   15 mEq/L
   4.0 mEq/L
   84 mg/dL
   116 mEq/L
   144 mEq/L
   25.4 %
   5.5 K/uL
        [image002.jpg]
                            [**2189-11-20**]  09:58 PM
                            [**2189-11-20**]  11:33 PM
                            [**2189-11-21**]  02:42 AM
                            [**2189-11-22**]  03:27 AM
                            [**2189-11-22**]  03:38 AM
                            [**2189-11-22**]  02:46 PM
                            [**2189-11-23**]  04:09 AM
   WBC
   3.1
   4.0
   1.8
   4.0
   5.5
   Hct
   27.4
   28.0
   25.8
   24.9
   25.4
   Plt
   76
   84
   61
   68
   62
   Cr
   3.0
   3.0
   3.3
   3.4
   3.4
   TropT
   0.28
   0.30
   TCO2
   17
   17
   Glucose
   105
   98
   78
   [**Telephone/Fax (3) 10095**]
   Other labs: PT / PTT / INR:15.5/43.9/1.4, CK / CKMB /
   Troponin-T:72//0.30, ALT / AST:54/48, Alk Phos / T Bili:170/0.9,
   Differential-Neuts:90.2 %, Lymph:5.5 %, Mono:3.9 %, Eos:0.3 %,
   Fibrinogen:293 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:271
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Microbiology: C.difficile negative
   Blood culture [**11-20**], [**11-21**] negative
   Urine culture negative
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -now resolved, may be component of delirium
   -CT head unremarkable, LP with high protein only
   -neurology following, may be planning for EEG
 HYPOXEMIA
   -now resolved but does have bilateral effusions
 SIRS
   -no clear source at this point
   -MAP now 78, off pressors
   -empiric zosyn, vancomycin for total 7 days.  Stop ampicillin today
   given LP results
   -on stress dose steroids but off pressors, will wean to hydrocortisone
   50mg IV q8hr and rapid taper to off
 CIRRHOSIS OF LIVER, OTHER
 HYPOTENSION (NOT SHOCK) off pressors currently
   -unclear source of infection
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -unclear etiology at this point.  Fe Urea intermediate, not clearlly
   pre-renal
   -will continue to monitor and renally dose medications
   ICU Care
   Nutrition: thickened liquid diet.  Speech and swallow following.
   Glycemic Control:
   Lines: Unable to remove lines today.
   Multi Lumen - [**2189-11-20**] 10:45 PM.  L radial a-line.  Foley.
   Arterial Line - [**2189-11-21**] 07:00 PM
   Prophylaxis:
   DVT: on heparin SQ
   Stress ulcer: on pantoprazole
   VAP: not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : if he remains off pressors can transition to floor bed.
   Will assess after return from paracentesis
   Total time spent: 45 min

2189-11-24 07:10:00 Physician Attending Progress Note
Chief Complaint: 75 yo man with cryptogenic cirrhosis, CAD with NSTEMI
   [**10-5**] thought due to demand.  Admitted [**2189-11-20**] with hypotension with
   infectious workup negative to date.
   HPI:
   24 Hour Events:
   -paracentesis with SAAG 2.1 and 100 WBC, 1.5L removed
   -MAP down to 60s after paracentesis with no response to 25% albumin.
   MAP subsequently decreased to 50s so started on low dose levophed which
   was discontinued at 6AM.  Received 500cc crystalloid
   -passed S/S, able to take diet with nectar thick liquids
   -HIV and RPR both negative
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2189-11-23**] 06:19 AM
   Vancomycin - [**2189-11-23**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2189-11-24**] 05:41 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-11-23**] 09:00 PM
   Other medications:
   Pantoprazole
   Levothyroxine
   FeSO4
   Atorvastatin
   ASA
   Lactulose 30gm TID
   Hydrocortisone 50mg IV q8hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-24**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.2
C (95.4
   Tcurrent: 35.2
C (95.4
   HR: 69 (61 - 76) bpm
   BP: 91/43(56) {82/43(54) - 130/68(75)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 73 Inch
   CVP: 13 (2 - 13)mmHg
   Total In:
                                                                  1,409 mL
                                                                    864 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                    909 mL
                                                                    814 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    730 mL
                                                                    240 mL
   Urine:
                                                                    730 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    679 mL
                                                                    624 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   Alert and oriented x3
   Comfortable, in no acute distress
   Decreased BS at bases but no crackles
   RRR, no m/r/g
   +BS, soft, nontender.  Paracentesis site clean.
   1+ symmetrical LE edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   52 K/uL
   110 mg/dL
   3.5 mg/dL
   16 mEq/L
   3.5 mEq/L
   85 mg/dL
   118 mEq/L
   148 mEq/L
   24.8 %
   7.2 K/uL
        [image002.jpg] Vanc level 24.8
                            [**2189-11-20**]  09:58 PM
                            [**2189-11-20**]  11:33 PM
                            [**2189-11-21**]  02:42 AM
                            [**2189-11-22**]  03:27 AM
                            [**2189-11-22**]  03:38 AM
                            [**2189-11-22**]  02:46 PM
                            [**2189-11-23**]  04:09 AM
                            [**2189-11-24**]  04:41 AM
   WBC
   3.1
   4.0
   1.8
   4.0
   5.5
   7.2
   Hct
   27.4
   28.0
   25.8
   24.9
   25.4
   24.8
   Plt
   76
   84
   61
   68
   62
   52
   Cr
   3.0
   3.0
   3.3
   3.4
   3.4
   3.5
   TropT
   0.28
   0.30
   TCO2
   17
   17
   Glucose
   105
   98
   78
   [**Telephone/Fax (3) 10095**]
   110
   Other labs: PT / PTT / INR:15.3/44.7/1.3, CK / CKMB /
   Troponin-T:72//0.30, ALT / AST:54/48, Alk Phos / T Bili:170/0.9,
   Differential-Neuts:94.4 %, Lymph:3.9 %, Mono:1.6 %, Eos:0.1 %,
   Fibrinogen:293 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, LDH:271
   IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -now resolved, may be component of delirium
   -CT head unremarkable, LP with high protein only
   -neurology following, no need for EEG given complete resolution of
   symptoms
 HYPOXEMIA
   -now resolved but does have bilateral effusions
 SIRS
   -no clear source at this point, paracentesis yesterday not consistent
   with SBP
   -recurrent pressor need yesterday was in setting of paracentesis
   -empiric zosyn, vancomycin for total 7 days.
   -on stress dose steroids but off pressors, will wean to hydrocortisone
   50mg IV q12hr today and 50mg IV x1 then off
 CIRRHOSIS OF LIVER, OTHER
   -no evidence of SBP or UGIB, given low protein
   -will likely need chronic SBP prophylaxis given low albumin
   -will ask liver team to see to initiate care
 HYPOTENSION (NOT SHOCK) off pressors currently
   -unclear source of infection, getting empiric antibiotics for 7 days
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -unclear etiology at this point.  Fe Urea intermediate, not clearly
   pre-renal.  Will repeat urine electrolytes and get renal ultrasound but
   will ask renal to see
   -will continue to monitor and renally dose medications, decrease
   vancomycin to 750mg IV q24hr
Hypernatremia
   -will encourage po liquid intake.  If Na still rising may need to
   replete free water with D5W tonight
   ICU Care
   Nutrition: Diet as per speech and swallow
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-11-20**] 10:45 PM
   Arterial Line - [**2189-11-21**] 07:00 PM will remove today as inaccurate and
   no need for frequent ABGs
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : If remains stable off pressors may consider transfer to
   floor later today
   Total time spent: 30 min

2189-11-24 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Mental status and mycoclonus improved
   -- Speech and Swallow eval - Soft diet, nectar thick
   -- D/cd ampicllin for listeria covergage because CSF was benign
   -- HIV [**Doctor First Name 8331**] and load negative
   -- 1.5 L serosanguinous fluid - Prot 1 Glu 121 Alb less than 1 LDH 67
   WBC 110 RBC 3750 - SAAG 2.1
   -- MAPs 60s after paracentesis - gave Albumin 25 g. MAPs dropped to
   50s. Started Levophed again at 0.03 mcg/kg and Bolused 500 cc IVF.
   Levophed turned off around 0600.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Ampicillin - [**2189-11-23**] 04:03 AM
   Piperacillin - [**2189-11-23**] 06:19 AM
   Vancomycin - [**2189-11-23**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2189-11-24**] 05:41 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-11-23**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-11-24**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.2
C (95.4
   Tcurrent: 35.2
C (95.4
   HR: 69 (61 - 76) bpm
   BP: 91/43(56) {82/43(54) - 130/68(75)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 73 Inch
    CVP: 13 (2 - 13)mmHg
   Total In:
                                                                  1,409 mL
                                                                    869 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                    909 mL
                                                                    819 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    730 mL
                                                                    240 mL
   Urine:
                                                                    730 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    679 mL
                                                                    629 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   52 K/uL
   8.1 g/dL
   110 mg/dL
   3.5 mg/dL
   16 mEq/L
   3.5 mEq/L
   85 mg/dL
   118 mEq/L
   148 mEq/L
   24.8 %
   7.2 K/uL
        [image002.jpg]
                            [**2189-11-20**]  09:58 PM
                            [**2189-11-20**]  11:33 PM
                            [**2189-11-21**]  02:42 AM
                            [**2189-11-22**]  03:27 AM
                            [**2189-11-22**]  03:38 AM
                            [**2189-11-22**]  02:46 PM
                            [**2189-11-23**]  04:09 AM
                            [**2189-11-24**]  04:41 AM
   WBC
   3.1
   4.0
   1.8
   4.0
   5.5
   7.2
   Hct
   27.4
   28.0
   25.8
   24.9
   25.4
   24.8
   Plt
   76
   84
   61
   68
   62
   52
   Cr
   3.0
   3.0
   3.3
   3.4
   3.4
   3.5
   TropT
   0.28
   0.30
   TCO2
   17
   17
   Glucose
   105
   98
   78
   [**Telephone/Fax (3) 10095**]
   110
   Other labs: PT / PTT / INR:15.3/44.7/1.3, CK / CKMB /
   Troponin-T:72//0.30, ALT / AST:54/48, Alk Phos / T Bili:170/0.9,
   Differential-Neuts:94.4 %, Lymph:3.9 %, Mono:1.6 %, Eos:0.1 %,
   Fibrinogen:293 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, LDH:271
   IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Imaging: [**2189-11-22**] CXR AP:
   Radiograph centered at thoracoabdominal junction was obtained for
   assessment
   of a nasogastric tube. The tube terminates in proximal stomach, but the
   side
   port is well above the GE junction. Thus the tube could be advanced
   several
   centimeters for standard positioning. The exam otherwise appears
   similar to
   the recent study except for apparent decrease in pleural effusions,
   although
   positional differences may contribute to this apparent change.
   Microbiology: [**11-22**]: CSF HIV not detected
   [**11-22**]: Serum HIV not detected
   Peritoneal fluid: No growth
   110 wbc, 4% polys
   RPR non reactive
   [**11-21**]: C diff negative
   [**11-20**], [**11-21**] Blood cultures NGTD
   [**11-21**]: Ucx: no growth
   Assessment and Plan
   75 yo M with h/o CAD, Afib, Cirrhosis, pleural effusions p/w fatigue,
   weakness and found to have hypoxemia, hypotension, pancytopenia and
   acute on chronic renal failure.
   # SIRS/Hypotension: Meets SIRS by leukopenia, hypotension and increasd
   RR. WBC now improved. CXR without consolidation but limited in the
   setting of effusions. UA clean. However, no left shift on CBC. LP
   benign except for elevated protein which is nonspecific. C diff
   negative. Crypto negative. HIV and RPR pending. Noninfectious
   etiologies could include hypoadrenalism and hypothroidism, but T4 and
   cortisol normal. Pressors off since this morning.
   - F/U cultures
 blood, urine, sputum, peritoneal
   - Stress Dose steroids for now, taper to 50 [**Hospital1 **], then 50 daily x 1 more
   day since BPs more stable
   - would consider [**Female First Name (un) 231**]
   - S and S eval in case of silent aspiration
   - Continue Broad spectrum antibiotics for now with vanco/zosyn for
   sepsis without known etiology with plan for 7 day course if no clear
   source found
   - D/c Ampicillin given normal CSF which was initially started for
   listeria coverage
   # AMS: Improved this morning. CT head negative and exam nonfocal. Neuro
   thinks likely toxic/metabolic.  At risk for toxic/metabolic given renal
   failure and cirrhosis.   RPR, HIV and VL neg.  Neuro no longer wants
   EEG.
   - f/u EEG
   - lactulose
   - appreciate neurology input
   # Pancytopenia: Likely from infection given acute nature. Now improved.
   DIC labs negative.  ?MDS.
   - CBC with diff daily
   - heme onc eval
   # Acute on Chronic renal failure: Cr remains above 3 from baseline 2.7.
   Feurea 33.4, so looks mixed.  Likely a component of ATN given profound
   hypotension on admission.
   - Renally dose mediations
   - urine lytes, renal ultrasound
   - renal consult
   # Cirrhosis: LFTs baseline. Not on lactulose on rifaximin at baseline.
   [**Last Name (un) **] with low protein, neg gram stain.
   - will likely benefit from SBP prophylaxis
   - lactulose as above
   ICU Care
   Nutrition: nectar thickened liquids
   Glycemic Control:
   Lines:  d/c a-line
   Multi Lumen - [**2189-11-20**] 10:45 PM
   Arterial Line - [**2189-11-21**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU